US04088695
(i) Preparation of 6-(7-hydroxyheptyl)-7-(3-oxohex-1-enyl)-1,4-dioxaspiro[4,4]nonane
The butyrylmethylenetriphenylphosphorane (m.p. 158°-161° C.), used as a starting material in the above preparation, was prepared from 1-chloropentan-2-one, via 2-oxopentyltriphenylphosphonium chloride (m.p. 159° C.), by proceeding in a similar manner to that hereinbefore described in Example 3(i) for the preparation of hexanoylmethylenetriphenylphosphorane from 1-chloroheptan-2-one.

reactant | butyrylmethylenetriphenylphosphorane | C(CCC)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23OP
reactant | 1-chloropentan-2-one | ClCC(CCC)=O | C5H9ClO
reactant | 2-oxopentyltriphenylphosphonium chloride | [Cl-].O=C(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC
reactant | hexanoylmethylenetriphenylphosphorane | C(CCCCC)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27OP
reactant | 1-chloroheptan-2-one | ClCC(CCCCC)=O | C7H13ClO
product | 6-(7-hydroxyheptyl)-7-(3-oxohex-1-enyl)-1,4-dioxaspiro[4,4]nonane | OCCCCCCCC1C2(OCCO2)CCC1C=CC(CCC)=O | C20H34O4
